US08278482B2
(4-(Dichloroamino)-4-methylpentyl)trimethylphosphonium chloride
A solution of (4-amino-4-methylpentyl)trimethylphosphonium chloride hydrochloride (0.70 g, 2.82 mmol) in a mixture of methanol (20 mL) and water (10 mL) was cooled in an ice bath for 15 min. t-BuOCl (1.0 mL, 3.0 equiv, 8.5 mmol) was added in one portion via syringe to the colorless solution to give a deep yellow solution. The reaction mixture was stirred for 30 min at 0° C., then room temperature for 30 min. The methanol was removed under reduced pressure and the aqueous solution was purified via reverse phase chromatography on a Shimadzu Prep-LC utilizing water/methanol and 0.05% acetic acid as modifier. Fractions were collected using UV absorbance at 215 nm. Fractions were pooled frozen and lyophilized to give a pale yellow solid (0.654 g, 82.6%). 1H NMR (D2O, 400 MHz): δ 1.40 (s, 6H), 1.65-1.69 (m, 2H), 1.85-1.89 (d, J=14.4, 9H), 1.89-1.92 (m, 2H), 2.19-2.27 (m, 2H). LRMS (ESI+) for C9H21Cl2NP+ (244.1); Found: 244, 246 (M+, M2H+)

reactant | (4-amino-4-methylpentyl)trimethylphosphonium chloride hydrochloride | 2.82 mmol, 0.70 g | Cl.[Cl-].NC(CCC[P+](C)(C)C)(C)C
reactant | t-BuOCl | 8.5 mmol, 1.0 mL, 3.0 equiv | C(C)(C)(C)OCl | C4H9ClO
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (4-(Dichloroamino)-4-methylpentyl)trimethylphosphonium chloride | 0.654 g, 82.6% | [Cl-].ClN(C(CCC[P+](C)(C)C)(C)C)Cl | InChI=1S/C9H21Cl2NP.ClH/c1-9(2,12(10)11)7-6-8-13(3,4)5;/h6-8H2,1-5H3;1H/q+1;/p-1
